US06458781B1
Step 2: (S)-(1-Formyl-3-methyl-butyl)-methyl-carbamic acid tert-butyl ester:
(S)-[1-(Methoxy-methyl-carbamoyl)-3-methyl-butyl]-methyl-carbamic acid tert-butyl ester (288 mg, 1.0 mmol) was dissolved in Et2O (10 mL), cooled to 0° C., treated with LAH (38 mg, 1.0 mmol), and stirred cold for 30 minutes. The reaction was quenched by dropwise addition of a solution of 150 mg Na2S2O3 in 5 mL H2O. The reaction was diluted with H2O (100 mL), washed with Et2O (3×100 mL), then the organic layers were combined, washed with saturated bicarbonate solution and brine, dried over Na2SO4, and concentrated to give the desired product which was carried on immediately without further purification.

reactant | (S)-[1-(Methoxy-methyl-carbamoyl)-3-methyl-butyl]-methyl-carbamic acid tert-butyl ester | 1.0 mmol, 288 mg | C(C)(C)(C)OC(N(C)[C@@H](CC(C)C)C(N(C)OC)=O)=O | C14H28N2O4
reactant | LAH | 1.0 mmol, 38 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | Et2O | 10 mL | CCOCC | C4H10O
product | (S)-(1-Formyl-3-methyl-butyl)-methyl-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(C)[C@@H](CC(C)C)C=O)=O | C12H23NO3
